US07314849B2
A solution of 1-bromo-2,4-difluoro-3-methylbenzene (2.10 g, 0.09 mol), 4-acetylamino-3-chloro-6-trimethylstannylpyridine-2-carboxylic acid methyl ester (4.00 g, 0.01 mol), 1,4-bis(diphenylphosphino)butane (0.140 g, 0.0003 mol) and cesium fluoride (4.5 g, 0.03 mol) in acetonitrile (100 mL) was degassed with nitrogen. Palladium acetate (0.70 g, 0.0003 mol) was added the solution heated to reflux for 2 hours. The reaction mixture was filtered through celite and the filtrate diluted with water (200 mL) and then extracted with ethyl acetate (2×150 mL). The combined organic phases were dried and concentrated and the residual solid was purified by chromatography (50% ethyl acetate in hexanes) to give 4-acetylamino-3-chloro-6-(2,4-difluoro-3-methylphenyl)-pyridine-2-carboxylic acid methyl ester (0.800 g, 0.002 mol): mp 152-153° C.

reactant | 1-bromo-2,4-difluoro-3-methylbenzene | 0.09 mol, 2.10 g | BrC1=C(C(=C(C=C1)F)C)F | C7H5BrF2
reactant | 4-acetylamino-3-chloro-6-trimethylstannylpyridine-2-carboxylic acid methyl ester | 0.01 mol, 4.00 g | COC(=O)C1=NC(=CC(=C1Cl)NC(C)=O)[Sn](C)(C)C
reactant | 1,4-bis(diphenylphosphino)butane | 0.0003 mol, 0.140 g | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | cesium fluoride | 0.03 mol, 4.5 g | [F-].[Cs+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | Palladium acetate | 0.0003 mol, 0.70 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-acetylamino-3-chloro-6-(2,4-difluoro-3-methylphenyl)-pyridine-2-carboxylic acid methyl ester | 0.002 mol, 0.800 g | COC(=O)C1=NC(=CC(=C1Cl)NC(C)=O)C1=C(C(=C(C=C1)F)C)F | C16H13ClF2N2O3
